US07625922B2
tert-Butyl 4-(2-(methylamino)-3-nitropyridin-4-yl-oxy)phenylcarbamate
N-Boc-4-hydroxyaniline (334 mg, 1.6 mmol) was dissolved in dry DMF (5 mL) and the solution was degassed by argon bubbling for 10 minutes. Potassium tert-butoxide (179 mg, 1.6 mmol) was added, and the stirring and argon bubbling continued for 50 minutes. 4-Chloro-N-methyl-3-nitropyridin-2-amine (260 mg, 1.4 mmol) was added to the reaction mixture. The reaction mixture was heated and stirred at 80° C. for 9 hours, under argon. The solvent was evaporated and the residue was extracted between DCM and aqueous NaOH 1M. The extraction was repeated twice, the organic layer was dried over MgSO4, and evaporated. The residue was purified by column chromatography (eluent gradient DCM to DCM:AcOEt 15:1) to afford the title compound (300 mg, 60%). 1H-NMR (δ, ppm, DMSO-d6): 1.48 (s, 9H, t-Bu), 2.91 (d, 3H, Me, J=4.60 Hz), 5.94 (d, 1H, HPy,5, J=5.70 Hz), 7.09 (d, 2H, Harom,Ph,3+5, J=9.00 Hz), 7.45 (m, 1H, NHPy), 7.53 (d, 2H, Harom,Ph,2+6), 8.07 (d, 1H, HPy,6), 9.46 (s, 1H, NH).

reactant | N-Boc-4-hydroxyaniline | 1.6 mmol, 334 mg | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)O | C11H15NO3
reactant | Potassium tert-butoxide | 1.6 mmol, 179 mg | CC(C)([O-])C.[K+]
reactant | 4-Chloro-N-methyl-3-nitropyridin-2-amine | 1.4 mmol, 260 mg | ClC1=C(C(=NC=C1)NC)[N+](=O)[O-] | C6H6ClN3O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(2-(methylamino)-3-nitropyridin-4-yl-oxy)phenylcarbamate | 300 mg, 60% | CNC1=NC=CC(=C1[N+](=O)[O-])OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C17H20N4O5
